US08790691B2
A mixture of ethyl 4-bromobutanoate (5.75 g, 29.5 mmol; Aldrich No.167118) and 1-methylpiperazine (3.55 mL, 32.0 mmol; Aldrich No. 130001) and anhydrous K2CO3 (4.5 g, 32.5 mmol; Fisher No. P208) in acetonitrile (MeCN, 150 mL) was refluxed for 18 h before concentrated in vacuo. The organic layer was then separated and the aqueous layer was extracted with dichloromethane (DCM, 3×150 mL). The combined organic extracts were washed with water (150 mL), dried (Na2SO4), and concentrated in vacuo to give ethyl 4-(4-methylpiperzin-1-yl)butanoate (6.01 g, 96%) as a yellow oil.

reactant | ethyl 4-bromobutanoate | 29.5 mmol, 5.75 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | 1-methylpiperazine | 32.0 mmol, 3.55 mL | CN1CCNCC1 | C5H12N2
reactant | K2CO3 | 32.5 mmol, 4.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | ethyl 4-(4-methylpiperzin-1-yl)butanoate | 6.01 g, 96% | CN1CCN(CC1)CCCC(=O)OCC | C11H22N2O2
